US08071581B2
Step 5: 2-Benzothiazol-6-yl-propionic acid
A mixture of 2-benzothiazol-6-yl-propionic acid methyl ester (6.6 g, 30.0 mmol) and aqueous 2 N NaOH (23.0 ml) was heated at reflux for 1 hour until the reaction mixture became a dark red solution. The mixture was then cooled to room temperature and the mixture extracted with dichloromethane (×2) and the aqueous layer was acidified with conc.hydrochloric acid to pH4-5. The resulting solid was filtered off to afford the crude product, which was stirred in ethyl acetate the filtered and dried in vacuo to provide the title compound (4.3 g, 69.2%) as an off white solid. (300 MHz, DMSO-d6): δ 12.41 (s, 1H), 9.35 (s, 1H), 8.09-8.08 (d, J=1.5 Hz, 2H), 8.05-8.02 (d, J=8.7 Hz 2H), 7.48-7.45 (dd, J=1.5 Hz, 8.7 Hz, 1H), 3.89 (q, 1H), 1.45 (d, 3H). MS m/z 208 (M++1).

reactant | 2-benzothiazol-6-yl-propionic acid methyl ester | 30.0 mmol, 6.6 g | COC(C(C)C1=CC2=C(N=CS2)C=C1)=O | C11H11NO2S
reactant | NaOH | 2 N, 23.0 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzothiazol-6-yl-propionic acid | 4.3 g, 69.2% | S1C=NC2=C1C=C(C=C2)C(C(=O)O)C | C10H9NO2S
